US07772238B2
2-[2-(ethoxycarbonyl)-1-benzothien-6-yl]propanoic acid.
[2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonic acid (0.19 g, 0.590 mmol) was suspended in H2O (5 mL) before heating at 210° C. in a microwave reactor for 40 seconds. The suspension was diluted with H2O (50 mL) and the products extracted into EtOAc (2×75 mL). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo to give 0.15 g of product (white solid, 91%). 1H NMR (DMSO-d6) δ 12.41 (br s, 1H), 8.14 (s, 1H), 7.95 (br s, 1H), 7.94 (d, J=8.4 Hz, 1H), 7.37 (dd, J=8.4, 1.8 Hz, 1H), 4.32 (q, J=7.2 Hz, 2H), 3.81 (q, J=7.2 Hz, 1H), 1.40 (d, J=7.2 Hz, 3H), 1.31 (t, J=7.2 Hz, 3H).

reactant | [2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonic acid | 0.590 mmol, 0.19 g | C(C)OC(=O)C=1SC2=C(C1)C=CC(=C2)C(C(=O)O)(C(=O)O)C | C15H14O6S
solvent | H2O | 5 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
product | 2-[2-(ethoxycarbonyl)-1-benzothien-6-yl]propanoic acid | 0.15 g, 91% | C(C)OC(=O)C=1SC2=C(C1)C=CC(=C2)C(C(=O)O)C | C14H14O4S
